US05968688
1,2,3,4-Tetrafluoroanthraquinone and 25 g of p-cyanoaniline were charged in a 50 cc, four necked flask and then the reaction was carried out at 150° C. for about 3 hours. After completion of reaction, p-cyanoaniline was distilled out from the reaction solution and then a column purification using a column with a silica gel was effected to give rise to 2.46 g of 2,3-bis(p-cyanoanilino)-1,4-difluoroanthraquinone (Dye 18') (yield 72,3 mol %). The physical properties of Dye 18' and analytical values defining the compound are tabulated in table 23.

reactant | 1,2,3,4-Tetrafluoroanthraquinone | FC1=C(C(=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)F)F)F | C14H4F4O2
reactant | p-cyanoaniline | 25 g | C(#N)C1=CC=C(N)C=C1 | C7H6N2
product | 2,3-bis(p-cyanoanilino)-1,4-difluoroanthraquinone | 2.46 g | C(#N)C1=CC=C(NC2=C(C=3C(C4=CC=CC=C4C(C3C(=C2NC2=CC=C(C=C2)C#N)F)=O)=O)F)C=C1 | C28H14F2N4O2
